US06037354
To a solution of 8-(2-Methoxy-phenyl)-1,4-dioxa-spiro[4.5]decan-8-ol (100 mg, 0.379 mmol) in 10 mL THF was added HCl (1.4 mL 6M, 8.4 mmol). The solution was heated to 80° C. for 45 min, then poured onto saturated sodium bicarbonate and extracted with ethylacetate. The combined organic layers were washed with saturated sodium chloride, dried with magnesium sulfate, and concentrated in vacuo. The crude material was passed through silica (dichloromethane/3% methanol as eluent) to give 4-(2-Methoxy-phenyl)-cyclohex-3-enone

reactant | 8-(2-Methoxy-phenyl)-1,4-dioxa-spiro[4.5]decan-8-ol | 0.379 mmol, 100 mg | COC1=C(C=CC=C1)C1(CCC2(OCCO2)CC1)O | C15H20O4
reactant | HCl | 8.4 mmol, 6M, 1.4 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(2-Methoxy-phenyl)-cyclohex-3-enone | COC1=C(C=CC=C1)C1=CCC(CC1)=O | C13H14O2
